US07141561B2
1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one
A suspension of 1-(4-benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]urea (4.9 g), palladium (10% on carbon, 1.0 g) and ethanol (40 mL) was stirred under hydrogen for 5 hours. The catalyst was filtered off and the filtrate was concentrated. The residue was taken up in trifluoroacetic acid (20 mL) and the solution was stirred for 48 hours. The reaction mixture was diluted with dichloromethane and washed with saturated sodium bicarbonate solution. The organic phase was dried and concentrated. The solid residue was stirred with acetonitrile, and the product was filtered off. The product with the molecular weight of 339.40 (C19H21N3O3); MS (ESI): 340 ([M+H]+), was obtained in this way.

reactant | 1-(4-benzyloxyphenyl)-1-(2,2-dimethoxyethyl)-3-[4-(2-dimethylaminoethoxy)phenyl]urea | 4.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C(=O)NC1=CC=C(C=C1)OCCN(C)C)CC(OC)OC | C28H35N3O5
catalyst | palladium | 1.0 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 1-[4-(2-Dimethylaminoethoxy)phenyl]-3-(4-hydroxyphenyl)-1,3-dihydroimidazol-2-one | CN(CCOC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)O)=O)C | C19H21N3O3
